US08252833B2
Ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate
Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate (24 g, 51.6 mmol) was suspended in methanol (75 ml) and tetrahydrofuran (200 ml) and cooled to 5° C. in an ice bath. Some solid did not go into solution. Sodium borohydride (2 g, 51.6 mmol) was added portionwise over 2 minutes (effervescence). Undissolved solid slowly went into solution and the colour lightened from dark brown to light brown. LC/MS after 5 minutes and 30 minutes indicated that the reaction had not proceeded to completion. Therefore, after 30 minutes, more sodium borohydride (1 g, 26.3 mmol) was added in one portion (effervescence). LC/MS after a further 30 minutes showed no starting material remaining. The mixture was concentrated in vacuo to give a brown oil that was partitioned between ethyl acetate (300 ml) and water (500 ml). The aqueous layer was further extracted with ethyl acetate (2×100 ml). Combined organics were washed with brine, dried over magnesium sulphate and concentrated to give the title compound as a brown solid (26 g).

reactant | Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate | 51.6 mmol, 24 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=CC(=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H24FNO6
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | Sodium borohydride | 51.6 mmol, 2 g | [BH4-].[Na+]
reactant | sodium borohydride | 26.3 mmol, 1 g | [BH4-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | Ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate | 26 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=CC(=C(C=C1)CC(=O)OCC)F)O)OCC)C=CC=C2 | C26H26FNO6
